US07223767B2
To a 5° C. solution of 2,4-dimethylphenylmagnesium bromide (prepared from 18.5 g (100 mmol) of 2,4-dimethylbromobenzene and 2.5 g (105 mmol) of magnesium turnings) in 100 mL of ether, was added cyclopentanone (8.4 g, 100 mmol) in 25 mL of ether. The mixture was stirred at room temperature for 1 hour and was then heated under reflux for 0.5 hours. The solution was cooled in an ice bath, 60 mL of 30% aqueous H2SO4 was carefully added, and the resulting mixture was heated under reflux for 2 hours. Water was added and the mixture was extracted with ether. The ether extract was washed with aqueous sodium bisulfite solution, aqueous sodium bicarbonate, and brine, dried, and evaporated. Purification of the residue by flash chromatography (hexane) afforded 6 g of 1-(2,4-dimethyl-phenyl)cyclopentene.

reactant | 2,4-dimethylphenylmagnesium bromide | 100 mmol, 18.5 g | CC1=C(C=CC(=C1)C)[Mg]Br
reactant | 2,4-dimethylbromobenzene | 100 mmol | CC1=C(C=CC(=C1)C)Br | C8H9Br
reactant | magnesium | 105 mmol | [Mg] | Mg
reactant | cyclopentanone | 100 mmol, 8.4 g | C1(CCCC1)=O | C5H8O
reactant | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | Water | O | H2O
product | 1-(2,4-dimethyl-phenyl)cyclopentene | 6 g | CC1=C(C=CC(=C1)C)C1=CCCC1 | C13H16
